US04343942
Quinoxaline-di-N-Oxide
A mixture of benzofuroxan (2.5 g.), acetaldehyde (2.5 ml.) and triethylamine (20 ml.) is allowed to stand at room temperature for 24 hours. The solid material which precipitates is filtered and dried to give product, M.P. 223°-224° C. dec. (MIC against P. vulgaris is 12.5 mcg./ml.).

reactant | benzofuroxan | 2.5 g | C1=CC2=NO[N+](=C2C=C1)[O-] | C6H4N2O2
reactant | acetaldehyde | 2.5 ml | C(C)=O | C2H4O
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | Quinoxaline-di-N-Oxide | C1=CC=C2C(=C1)N(C=C[N+]2=O)[O-] | C8H6N2O2
